US07541372B2
{4-[5-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-(tetrahydro-pyran-4-yl)-amine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.53 mmol) instead of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole was converted using 4-aminotetrahydropyran (161 mg, 1.59 mmol) and N,N-diisopropylethylamine (137 mg, 1.06 mmol) instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:40:20:0 to 0:75:20:5, 84 mg, 35%) which was obtained as a white solid. MS: m/e=459.4 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.53 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C1CC1)C1=CC=CC=C1)OC | C21H16FN3O3
reactant | 4-aminotetrahydropyran | 1.59 mmol, 161 mg | NC1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | 1.06 mmol, 137 mg | C(C)(C)N(C(C)C)CC | C8H19N
product | {4-[5-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-(tetrahydro-pyran-4-yl)-amine | 84 mg, 35% | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)NC1CCOCC1)OC | C26H26N4O4
